US08114868B2
To a solution of 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo -1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (730 mg, 1.59 mmol) in DMSO (8 mL) was added bis(pinacolato)diboron (480 mg, 1.89 mmol), KOAc (480 mg, 4.89 mmol) and Pd(dppf)Cl2 (45 mg, 0.042 mmol) under nitrogen atmosphere. The formed mixture was stirred at 90° C. for 20 h. The reaction was quenched with water and extracted with EtOAc. The combined organic phase was dried over anhydrous Na2SO4 and concentrated to give the crude product, which was purified by column chromatography to give 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (191 mg, 23.7%).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo -1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 1.59 mmol, 730 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CC(C#N)(C)C)=O | C23H24BrFN2O2
reactant | bis(pinacolato)diboron | 1.89 mmol, 480 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 4.89 mmol, 480 mg | CC(=O)[O-].[K+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.042 mmol, 45 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 191 mg, 23.7% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C#N)(C)C | C29H36BFN2O4
